US08809369B2
To a stirred mixture solution of 2-(3-chloro-4-fluoro-phenyl)-4-methyl-4-phenyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (423 mg, 1 mmol) in methanol (10 mL) and tetrahydrofuran (20 mL) was added 30% sodium hydroxide in water (10 mL). The reaction mixture was stirred at 60° C. for 6 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×100 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-(3-chloro-4-fluoro-phenyl)-4-methyl-4-phenyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (380 mg, 95%) as a light white solid which was used for next step without further purification: MS (ESI) M+1=396.1.

reactant | 2-(3-chloro-4-fluoro-phenyl)-4-methyl-4-phenyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 1 mmol, 423 mg | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=C(C=C1)F)Cl)(C1=CC=CC=C1)C | C25H23ClFNO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 2-(3-chloro-4-fluoro-phenyl)-4-methyl-4-phenyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 380 mg, 95% | ClC=1C=C(C=CC1F)C1NC2=CC=C(C=C2C(C1)(C1=CC=CC=C1)C)C(=O)O | C23H19ClFNO2
